datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2]#[C:3][C:4]#[C:5][H:7])[H:6].[C:8]([c:9]1[c:10]([H:17])[c:11]([H:18])[c:12]([H:19])[c:13]([H:20])[c:14]1[H:21])([H:15])[H:16]>>[C:0](#[C:1][C:2](=[C:3][C:4]#[C:5][H:7])[C:8]([c:9]1[c:10]([H:17])[c:11]([H:18])[c:12]([H:19])[c:13]([H:20])[c:14]1[H:21])([H:15])[H:16])[H:6],37.2794
[C:0](=[C:1]([C:2]([O:3][H:9])([H:7])[H:8])[H:6])([H:4])[H:5].[H:10]>>[C:0](=[C:1][C:2]([O:3][H:9])([H:7])[H:8])([H:4])[H:5].[H:6][H:10],24.355064
[C:0](=[C:1]([C:2]([C:3]([H:13])([H:14])[H:15])=[C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([H:24])([H:25])[H:26])[H:23])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])[H:16])[H:12])([H:10])[H:11]>>[C:0](=[C:1]([C:2]1([C:3]([H:13])([H:14])[H:15])[C:4]([H:16])[C:5]([H:17])([H:18])[C:6]([H:19])([H:20])[C:7]([H:21])([H:22])[C:8]1([C:9]([H:24])([H:25])[H:26])[H:23])[H:12])([H:10])[H:11],54.6849
[C:0]([C:1](=[C:2]([C:3]([C:4]([C:5]([H:14])([H:15])[H:16])=[C:6]([C:7]([H:18])([H:19])[H:20])[H:17])([H:12])[H:13])[H:11])[H:10])([H:8])[H:9]>>[C:0]1([H:8])([H:9])[C:1]([H:10])=[C:2]([H:11])[C:3]([H:12])([H:13])[C:4]([C:5]([H:14])([H:15])[H:16])[C:6]1([C:7]([H:18])([H:19])[H:20])[H:17],99.0771
[C:0]([C:1](=[C:2]([C:3](=[C:4]([C:5]1([H:16])[C:6]([H:17])=[C:7]([H:18])[C:8]([H:19])=[C:9]1[H:20])[H:15])[H:14])[H:13])[H:12])([H:10])[H:11]>>[C:0]([C:1](=[C:2]([C:3](=[C:4]([C:5]1[C:6]([H:17])=[C:7]([H:18])[C:8]([H:19])=[C:9]1[H:20])[H:15])[H:14])[H:13])[H:12])([H:10])([H:11])[H:16],123.8464
[C:0]([S:1][H:5])([H:2])([H:3])[H:4].[H:6]>>[C:0]([S:1][H:5])([H:3])[H:4].[H:2][H:6],14.644
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([H:7])[H:8])[H:6])([H:4])[H:5].[C:12]([H:13])([H:14])[H:15]>>[C:0](=[C:1]([C:2]([C:3]([H:10])[H:11])([H:7])[H:8])[H:6])([H:4])[H:5].[H:9][C:12]([H:13])([H:14])[H:15],29.932336
[C:0](#[C:1][C:2](=[C:3]=[C:4]([H:7])[H:8])[H:6])[H:5].[C:9]([C:10]([c:11]1[c:12]([H:21])[c:13]([H:22])[c:14]([H:23])[c:15]([H:24])[c:16]1[H:25])[H:20])([H:17])([H:18])[H:19]>>[C:0](#[C:1][C:2]([C:3]=[C:4]([H:7])[H:8])([H:6])[C:10]([C:9]([H:17])([H:18])[H:19])([c:11]1[c:12]([H:21])[c:13]([H:22])[c:14]([H:23])[c:15]([H:24])[c:16]1[H:25])[H:20])[H:5],43.2207
[C:0]([C:1]([S:2][H:13])([c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])[H:12])([H:9])([H:10])[H:11].[C:19]([C:20]=[S:21])([H:22])([H:23])[H:24]>>[C:0]([C:1]([S:2][H:13])[c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])([H:9])([H:10])[H:11].[H:12][C:20]([C:19]([H:22])([H:23])[H:24])=[S:21],30.5432
[C:0](=[C:1]([C:2]#[C:3][C:4]([H:8])([H:9])[H:10])[H:7])([H:5])[H:6].[C:11]([c:12]1[c:13]([H:20])[c:14]([H:21])[c:15]([H:22])[c:16]([H:23])[c:17]1[H:24])([H:18])[H:19]>>[C:0](=[C:1]([C:2](=[C:3][C:4]([H:8])([H:9])[H:10])[C:11]([c:12]1[c:13]([H:20])[c:14]([H:21])[c:15]([H:22])[c:16]([H:23])[c:17]1[H:24])([H:18])[H:19])[H:7])([H:5])[H:6],54.5175
[C:0]([C:1]([S:2][H:7])([H:5])[H:6])([H:3])[H:4]>>[C:0]1([H:3])([H:4])[C:1]([H:5])([H:6])[S:2]1.[H:7],146.44
[C:0](#[C:1][C:2]([C:3]([H:13])([H:14])[H:15])=[C:4]([C:5]([H:16])([H:17])[H:18])[C:6]([C:7]([C:8]([C:9]([H:23])([H:24])[H:25])[C:10](=[C:11]([H:27])[H:28])[H:26])([H:21])[H:22])([H:19])[H:20])[H:12]>>[C:0](#[C:1][C:2]1([C:3]([H:13])([H:14])[H:15])[C:4]([C:5]([H:16])([H:17])[H:18])[C:6]([H:19])([H:20])[C:7]([H:21])([H:22])[C:8]1([C:9]([H:23])([H:24])[H:25])[C:10](=[C:11]([H:27])[H:28])[H:26])[H:12],109.453
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([C:11]([H:35])([H:36])[H:37])([H:33])[H:34])([H:31])[H:32])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:12])([H:13])[H:14].[O:38]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([C:11]([H:35])([H:36])[H:37])([H:33])[H:34])([H:31])[H:32])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:12])([H:13])[H:14].[H:23][O:38],7.397312
[C:0](=[O:1])([H:2])[H:3].[O:4][C:5](=[O:6])[H:7]>>[C:0](=[O:1])[H:3].[H:2][O:4][C:5](=[O:6])[H:7],56.9024
[C:0]([C:1](=[C:2]([C:3](=[O:4])[H:9])[H:8])[H:7])([H:5])[H:6]>>[C-:3]#[O+:4].[C:0]([C:1](=[C:2]([H:8])[H:9])[H:7])([H:5])[H:6],104.6
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])[H:8])[H:7])([H:5])[H:6].[C:12]([C:13]([C:14]([H:20])([H:21])[H:22])([H:18])[H:19])([H:15])([H:16])[H:17]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])([H:8])[H:18])[H:7])([H:5])[H:6].[C:12]([C:13]([C:14]([H:20])([H:21])[H:22])[H:19])([H:15])([H:16])[H:17],102.508
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[S:9]([H:10])[H:11]>>[C:0]([C:1]([C:2]([H:6])([H:7])[H:8])([H:5])[S:9][H:11])([H:3])([H:4])[H:10],175.728
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([H:25])([H:26])[H:27])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10].[H:28]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([H:25])([H:26])[H:27])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])[H:12])([H:9])[H:10].[H:11][H:28],0.0
